US04938790
Preparation of 3',4'-Dimethoxyspiro-(cyclopropane-1,12'(12'H)-dibenzo[d,g][1,3]dioxocin)-6'-carboxylic Acid.
A solution of 76 mg (0.23 mmol) of methyl 3',4'-dimethoxyspiro(cyclopropane-1,12'(12'H)-dibenzo[d,g][1,3]dioxocin)-6'-carboxylate in 0.46 ml of tetrahydrofuran was combined with 0.172 ml (0.35 mmol) of 2N aqueous sodium hydroxide and the mixture stirred for 1.3 hour. The resulting mixture was diluted with 0.5 ml of water, extracted with ether, and then acidified with 1N aqueous hydrochloric acid. The resulting mixture was extracted 3 times with 1 ml portions of ether and the combined ethereal extracts were dried over magnesium sulfate and concentrated by evaporation under reduced pressure to obtain the title compound in quantitative yield as a white solid. The proton and carbon NMR and infrared spectra were consistent with the assigned structure.

reactant | methyl 3',4'-dimethoxyspiro(cyclopropane-1,12'(12'H)-dibenzo[d,g][1,3]dioxocin)-6'-carboxylate | 0.23 mmol, 76 mg | COC=1C=CC2=C(OC(OC3=C(C24CC4)C=CC=C3)C(=O)OC)C1OC | C20H20O6
reactant | sodium hydroxide | 0.35 mmol, 2N, 0.172 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 0.46 ml | O1CCCC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | 3',4'-Dimethoxyspiro-(cyclopropane-1,12'(12'H)-dibenzo[d,g][1,3]dioxocin)-6'-carboxylic Acid | quantitative yield | COC=1C=CC2=C(OC(OC3=C(C24CC4)C=CC=C3)C(=O)O)C1OC | C19H18O6
